US05877317
Methyl Phthalide-3-acetate (XCII)
Phthalide-3-acetic acid (XCI, 9.6 g, 50 mmol) is dissolved in methanol (50 ml) saturated with anhydrous hydrochloric acid and the mixture is cooled to 0°-5° for 18 hr. The solvent is concentrated under reduced pressure, treated with sodium bicarbonate, and extracted with methylene chloride (800 ml). The organic phase is washed with saturated aqueous sodium bicarbonate, saline, dried over magnesium sulfate, filtered and concentrated to give the title compound, mp 62°-63°; NMR (CDCl3, TMS) 7.94-7.50, 5.90, 3.77 and 2.92 δ.

reactant | Phthalide-3-acetic acid | 50 mmol, 9.6 g | C1(=O)OC(C2=CC=CC=C12)CC(=O)O | C10H8O4
reactant | methanol | 50 ml | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
product | Methyl Phthalide-3-acetate | C1(=O)OC(C2=CC=CC=C12)CC(=O)OC | C11H10O4
